US09120822B2
Potassium carbonate (140 mg, 1.02 mmol, 1.5 eq) is added at room temperature to a stirred solution of [6-(2-bromo-acetyl)-pyridin-3-yl]-carbamic acid tert-butyl ester (220 mg, 0.70 mmol, 1.0 eq) and 4-amino-6-methoxy-[1,5]naphthyridin-3-ol (130 mg, 0.69 mmol, 1.0 eq) in N,N-dimethylformamide (10 mL). After 30 minutes stirring at room temperature, solvent is removed and the residue is extracted with ethyl acetate (3×15 mL) and water (10 mL). The combined organic layers are washed with brine, dried over sodium sulfate, filtered and concentrated to give the crude product that is purified by column chromatography (silica gel, eluent: dichloromethane:methanol, 100:1, v/v) to afford {6-[2-(4-amino-6-methoxy-[1,5]naphthyridin-3-yloxy)-acetyl]-pyridin-3-yl}-carbamic acid tert-butyl ester as a red-brown solid (90 mg, 24% yield).

reactant | Potassium carbonate | 1.02 mmol, 140 mg, 1.5 eq | C([O-])([O-])=O.[K+].[K+]
reactant | [6-(2-bromo-acetyl)-pyridin-3-yl]-carbamic acid tert-butyl ester | 0.70 mmol, 220 mg, 1.0 eq | C(C)(C)(C)OC(NC=1C=NC(=CC1)C(CBr)=O)=O | C12H15BrN2O3
reactant | 4-amino-6-methoxy-[1,5]naphthyridin-3-ol | 0.69 mmol, 130 mg, 1.0 eq | NC1=C(C=NC2=CC=C(N=C12)OC)O | C9H9N3O2
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
product | {6-[2-(4-amino-6-methoxy-[1,5]naphthyridin-3-yloxy)-acetyl]-pyridin-3-yl}-carbamic acid tert-butyl ester | 90 mg, 24% yield | C(C)(C)(C)OC(NC=1C=NC(=CC1)C(COC=1C=NC2=CC=C(N=C2C1N)OC)=O)=O | C21H23N5O5
